US04931443
4-Oxo-4-[4-(4-(4-(4-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid and methylamine are reacted together to give N-methyl-5-[4-(4-(4-(4-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one.

reactant | 4-Oxo-4-[4-(4-(4-(4-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid | O=C(CCC(=O)O)C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC=C(C=C1)C | C25H32N2O3
reactant | methylamine | CN | CH5N
product | N-methyl-5-[4-(4-(4-(4-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one | CN1C(CCC1C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC=C(C=C1)C)=O | C26H35N3O
